US07119115B2
0.3 g of ethyl 3-(2-oxo-5,5-diphenylcyclohex-3-enylamino)acrylate is dissolved in 6 cm3 of ethanol. The solution obtained is cooled to a temperature in the region of 0° C. 2 cm3 of sodium ethoxide solution (obtained from 0.23 g of sodium in 20 cm3 of ethanol) are added to the preceding solution at a temperature of between 0 and 5° C. After warming to a temperature in the region of 20° C., the resulting mixture is stirred for about 18 hours. About ten grams of crushed ice are then added to the reaction mixture and this mixture is then concentrated under reduced pressure (13 kPa) to half its volume. The mixture thus obtained is extracted five times with diethyl ether (three times 100 cm3, twice 50 cm3). The combined organic phases are successively washed with 100 cm3 and then 50 cm3 of saturated aqueous sodium chloride solution and then dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (13 kPa). The residue is purified by flash chromatography on a column of silica (eluent: cyclohexane/ethyl acetate (85/15 by volume)]. 0.013 g of ethyl 6,6-diphenyl-6,7-dihydro-1H-indole-3-carboxylate is thus obtained in the form of a yellow solid, the characteristics of which are as follows:

reactant | ethyl 3-(2-oxo-5,5-diphenylcyclohex-3-enylamino)acrylate | 0.3 g | O=C1C(CC(C=C1)(C1=CC=CC=C1)C1=CC=CC=C1)NC=CC(=O)OCC | C23H23NO3
reactant | sodium ethoxide | 2 cm3, 0.23 g | [O-]CC.[Na+]
solvent | ethanol | 6 cm3 | C(C)O | C2H6O
product | ethyl 6,6-diphenyl-6,7-dihydro-1H-indole-3-carboxylate | 0.013 g | C1(=CC=CC=C1)C1(C=CC=2C(=CNC2C1)C(=O)OCC)C1=CC=CC=C1 | C23H21NO2
